US06211234B1
2-Fluoro-4-hydroxynitrobenzene (3 g) is added portionwise to a stirred suspension of sodium hydride (0.9 g, 60% dispersion in mineral oil) in dry dimethylformamide (50 mL) under nitrogen. After stirring for 20 minutes methyl 3-bromomethylbenzoate is added in one portion and stirring continued for 3 hours. The reaction mixture is evaporated to dryness and the residue partitioned between ethyl acetate (50 mL) and water (50 mL). The organic phase is washed three times with water (50 mL),dried over magnesium sulphate and evaporated to give a yellow solid which is crystallised from a mixture of ethyl acetate and cyclohexane (1:3 v/v) to give methyl 3-(3-fluoro-4-nitrophenoxymethyl]benzoate (4.95 g) as a white solid.

reactant | 2-Fluoro-4-hydroxynitrobenzene | 3 g | FC1=C(C=CC(=C1)O)[N+](=O)[O-] | C6H4FNO3
reactant | sodium hydride | 0.9 g | [H-].[Na+]
reactant | methyl 3-bromomethylbenzoate | BrCC=1C=C(C(=O)OC)C=CC1 | C9H9BrO2
solvent | dimethylformamide | 50 mL | CN(C=O)C | C3H7NO
product | methyl 3-(3-fluoro-4-nitrophenoxymethyl]benzoate | 4.95 g | FC=1C=C(OCC=2C=C(C(=O)OC)C=CC2)C=CC1[N+](=O)[O-] | C15H12FNO5
